US04440779
5,10-Dihydro-3-hydroxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetic acid (360 mg, 1.14 mmol) is suspended in absolute ethanol (5 ml) and heated to reflux under nitrogen. Then concentrated HCl (75 μl) is added, and the mixture is heated at reflux for 30 minutes. The homogeneous solution is allowed to cool, and the product crystallizes. The solid is filtered and washed with ice-cold ethanol and dried to give 350 mg (89%) of ethyl 5,10-dihydro-3-hydroxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate. M.P. 201°-202° (dec).

reactant | 5,10-Dihydro-3-hydroxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetic acid | 1.14 mmol, 360 mg | OC(=O)C=1C2=C(N(C1CC(=O)O)C)C(C1=C(CO2)C=CC=C1)=O | C16H13NO6
reactant | HCl | 75 μl | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 5,10-dihydro-3-hydroxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate | 350 mg, 89% | OC(=O)C=1C2=C(N(C1CC(=O)OCC)C)C(C1=C(CO2)C=CC=C1)=O | C18H17NO6
